Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfamethizole
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___: Coronary angiogram 
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
Interventional Details
Complications: There were no clinically significant 
complications.
Findings
• No angiographically apparent coronary artery disease.
 
History of Present Illness:
___ y F with history of Raynauds, depression, anxiety, who 
presented with chest pain, found to have ST elevations in 
anterolateral leads s/p cardiac catheterization without coronary 
artery disease, now admitted to cardiology NP service.  

She reports waking up from sleep with chest pain. Feels like she 
can't take a deep breath. Feels like a pressure, radiating into 
the jaw. Her chest pain is worse when lying flat.  She has no 
family history of cardiac disease. No HTN, HLD, diabetes, or 
smoking.  

 - In the ED, initial vitals were:70 ___ 100% RA  
 - Labs were notable for: trop 1.12, BNP 451 wbc 10.2, hgb 12.5, 
plt 219, Na 135, K 4.2, Cl 95, bicarb 24, BUN 22, Cr 0.8,  
 - Studies were notable for: EKG NSR HR 75 ST elevations in I, 
V3-V6, no reciprocal changes, normal intervals  
 CXR: No acute cardiopulmonary abnormality.  
 - The patient was given: ASA 325, nitro SL, heparin gtt  
 Code STEMI was called and she was taken to cath lab, underwent 
angiogram with right radial access, found to have no 
angiographically apparent coronary artery disease.  
 On arrival to the floor, VSS: T:98.3 BP: 99/62 HR:69 RR:18 
SpO2: 99% RA. She reports ongoing chest "tightness" that has 
improved from the chest pressure she felt overnight. She denies 
shortness of breath, lightheadedness/ dizziness. 

 
Past Medical History:
 anxiety  
 depression  
 osteoporosis  
 Raynauds  
 
Social History:
___
Family History:
paternal aunt breast cancer, no ovarian or colon cancers, no 
diabetics, no premature cad, no clotting disorders, melanoma, no 
d/s/etoh.
 
Physical Exam:
Physical Exam on Admission:
General: Awake, pleasant female lying in bed appears to be in no
acute distress
Neuro: Alert and oriented x4. Pleasant and cooperative. Speech
clear, appropriate and comprehensible. Tongue midline, smile
symmetric. Equal and strong hand grasps and foot pushes. 
HEENT: Neck supple, No JVD noted
CV: RRR, Normal S1/S2, no murmur
Lungs: Clear ___, posteriorly, respirations are non-labored. No
use of accessory muscles noted.
Abdomen: soft, non-tender
PV: WWP, No edema  
Access sites: Right radial soft without bleeding or hematoma. +2
radial pulse.  CSM WNL.  

Physical Exam on Discharge: 
___ 0734 Temp: 99.8 PO BP: 103/62 R Lying HR: 85 RR: 18
O2 sat: 93% O2 delivery: Ra 
___ 0803 BP: 113/56 R Sitting HR: 83 
___ 1312 BP: 89/53 R Sitting HR: ___ FSBG: ___ mild 
___,
___ PO Amt: 420ml 
___ Urine Amt: 1575ml 
Today's Weight: 62.5 kg
Tele: SR 60-80s, no arrhythmia alarms per telemetry review
Pertinent Cardiovascular Imaging: TTE ___ revealed distal
anterior and apical akinesis; left ventricular ejection fraction
is 40-45%.
Physical Examination:
General: Awake, pleasant lying in bed, NAD
Neuro: Alert and oriented x4. Pleasant and cooperative. PERRLA
@3mm. Speech clear, appropriate and comprehensible. Tongue
midline, smile symmetric. Equal and strong hand grasps and foot
pushes. 
HEENT: Neck supple, No JVD noted
CV: RRR, Normal S1 S2, or systolic/diastolic murmur
Lungs: Clear ___, posterior and anteriorly, non-labored. No use 
of
accessory muscles noted.
Abdomen: soft, non-tender, + BS x4
PV: WWP, + pedal pulses, No edema, Palpable Pedal pulses ___. 
Access sites: Right radial soft without bleeding or hematoma. +2
radial pulse. CSM WNL. Soft ecchymosis noted. 

 
Pertinent Results:
Labs on Admission: 
___ 02:50AM
WBC-10.2* Hgb-12.5 Hct-38.1 Plt ___ PTT-25.1 ___
Glucose-123* UreaN-22* Creat-0.8 Na-135 K-4.2 Cl-95* HCO3-24 
AnGap-16
cTropnT-1.12*
proBNP-451*
CRP-0.5

Coronary angiogram (___):
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
Interventional Details
Complications: There were no clinically significant 
complications.
Findings
• No angiographically apparent coronary artery disease.

TTE (___):
CONCLUSION:
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
moderate regional left ventricular systolic dysfunction with 
apical LV akinesis (see schematic). Overall left ventricular 
systolic function is mildly depressed. The visually estimated 
left ventricular ejection fraction is 40-45%. There is no 
resting left ventricular outflow tract gradient. There is Grade 
I diastolic dysfunction. Normal right ventricular cavity size 
with normal free wall motion. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter is normal with a normal 
descending aorta diameter. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is mild [1+] tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is borderline elevated. There 
is no pericardial effusion.
IMPRESSION: 1) Moderate focal in setting of mild global LV 
systolic dysfunction suggestive of ___'s cardiomyopathy.
 
Brief Hospital Course:
___ with history osteoporosis, depression, anxiety,
who presented with chest pain that woke her up from sleep, found 
to have ST elevations in anterolateral leads s/p cardiac 
catheterization with no evidence of coronary artery disease; TTE 
revealed Takotsubo cardiomyopathy. She admits to increased 
anxiety in her life recently, but is unable to relate it to a 
specific event. She continued to have chest pain with 
inspiration over next ___ hours managed with Tylenol. She was 
uncomfortable taking deep breathes and was limited by pain. That 
pain has resolved. She also had low grade fever which improved 
with aggressive pulmonary toileting, increased activity and use 
of incentive spirometer. Her blood
pressures have been soft with mild dizziness requiring small NS 
IV bolus yesterday of 250cc.  This morning her SBP was greater 
than 100 and she was able to get 2.5 mg of lisinopril and 12.5 
mg of metoprolol tartrate per parameters.  Within a few hours 
her blood pressure was 89/53 and she had mild dizziness.  She 
increased her p.o. fluid intake and her symptoms resolved.  She 
is now ambulating without
any symptoms.  As per Dr. ___ will send her home with 
metoprolol succinate 12.5mg daily only and stop the lisinopril.  
Also to note her hemoglobin is 10.4 today with hematocrit 31.3 
and platelets 133.  These have been down trending since starting 
on Lovenox and Coumadin.  The Lovenox was discontinued and she 
will continue on Coumadin 5mg daily and have INR checked on 
___. Her INR was 1.5 today and will not be 
bridged per Dr. ___ due to concerns of her down trending H/H 
and platelets. She will also have a CBC checked that same day 
with results to Dr. ___ PCP. She has no evidence of 
bleeding. She will ___ with her PCP as scheduled and was 
encouraged to consider stress management options. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lubricating Drops (carboxymethylcellulose-glycern) 0.5-0.9 % 
ophthalmic (eye) BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN fever, pain  
2.  Metoprolol Succinate XL 12.5 mg PO DAILY  
3.  Warfarin 5 mg PO DAILY16 
Target INR ___.  Lubricating Drops (carboxymethylcellulose-glycern) 0.5-0.9 % 
ophthalmic (eye) BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___'s cardiomyopathy
 
Discharge Condition:
24-hour events: 
Chest pain improved today. Low grades temps yesterday. Improved 
with incentive spirometer use hourly. She was dizzy and 
hypotensive yesterday requiring IV bolus of 250 cc and was not 
able to get metoprolol or lisinopril as limited by blood 
pressure. Her blood pressure was better this morning with SBP 
greater than 100 and got 12.5 of metoprolol tartrate and 2.5 of 
lisinopril. A few hours later she was slightly dizzy with blood 
pressure 89/53. She was encouraged to increase p.o. fluids and 
her dizziness resolved. She is now ambulating without any 
symptoms.  
 
Post-Procedure Day ___ s/p Cardiac Catheterization for ST 
elevations; no obstructive CAD, no intervention 
 
Subjective: "I am nervous to go home as I feel I am being 
watched 
closely here." 
 
ROS: negative unless noted below 
[X] CP 
[] SOB 
[] Pain 
[X] Dizziness 
[] Headache 
[] Nausea/Vomiting 
[] Decreased appetite 
 
24-hour data: 
 
___ 0734 Temp: 99.8 PO BP: 103/62 R Lying HR: 85 RR: 18 
O2 sat: 93% O2 delivery: Ra  
___ 0803 BP: 113/56 R Sitting HR: 83  
___ 1312 BP: 89/53 R Sitting HR: ___ FSBG: ___ mild 
___, 
NP notified  
 
___ PO Amt: 420ml  
___ Urine Amt: 1575ml  
 
Admit Weight: 61.4kg 
Today's Weight: 62.5 kg 
 
Tele: SR 60-80s, no arrhythmia alarms per telemetry review 
 
LABS: 
___ 06:11AM BLOOD WBC: 4.2 RBC: 3.41* Hgb: 10.4* Hct: 31.3* 

MCV: 92 MCH: 30.5 MCHC: 33.2 RDW: 13.4 RDWSD: 45.___*  

___ 06:11AM BLOOD ___: 16.4* PTT: 32.9 ___: 1.5*  
___ 06:11AM BLOOD Glucose: 90 UreaN: 12 Creat: 0.7 Na: 135 
K: 4.6 Cl: 100 HCO3: 25 AnGap: 10  
___ 06:11AM BLOOD Calcium: 8.1* Phos: 2.7 Mg: 2.1  
 
Pertinent Cardiovascular Imaging: TTE ___ revealed distal 
anterior and apical akinesis; left ventricular ejection fraction 

is 40-45%. 
 
Physical Examination: 
General: Awake, pleasant lying in bed, NAD 
Neuro: Alert and oriented x4. Pleasant and cooperative. PERRLA 
@3mm. Speech clear, appropriate and comprehensible. Tongue 
midline, smile symmetric. Equal and strong hand grasps and foot 
pushes.  
HEENT: Neck supple, No JVD noted 
CV: RRR, Normal S1 S2, or systolic/diastolic murmur 
Lungs: Clear ___, posterior and anteriorly, non-labored. No use 
of 
accessory muscles noted. 
Abdomen: soft, non-tender, + BS x4 
PV: WWP, + pedal pulses, No edema, Palpable Pedal pulses ___.  
Access sites: Right radial soft without bleeding or hematoma. +2 

radial pulse. CSM WNL. Soft ecchymosis noted.  
 
 
Current medications reviewed [x] 
--------------- --------------- --------------- --------------- 
--------------- --------------- --------------- --------------- 
Active Inpatient Medication list as of ___ at 1424: 
 
Medications - Standing 
Sodium Chloride 0.9% Flush ___ mL IV Q8H and PRN, line flush 
Lubricating Drops 0.5-0.9 % ophthalmic (eye) BID 
Warfarin 5 mg PO/NG DAILY16 
Metoprolol Succinate XL 12.5 mg PO DAILY 
 
Medications - PRN 
Acetaminophen 650 mg PO/NG Q6H:PRN fever, pain 
Ramelteon 8 mg PO/NG QHS:PRN Insomnia 
Senna 8.6 mg PO/NG BID:PRN Constipation - First Line 
Polyethylene Glycol 17 g PO/NG DAILY:PRN Constipation - First 
Line 
--------------- --------------- --------------- --------------- 
 
--------------- --------------- --------------- --------------- 
 
Assessment: ___ with history osteoporosis, depression, anxiety, 
who presented with chest pain, found to have ST elevations in 
anterolateral leads s/p cath with no evidence of coronary artery 

disease; TTE revealed Takotsubo cardiomyopathy. Her blood 
pressures have been soft with mild dizziness requiring small IV 
bolus yesterday of 250cc. This morning her SBP was greater than 
100 and she was able to get 2.5 mg of lisinopril and 12.5 mg of 
metoprolol tartrate. Within a few hours her blood pressure was 
89/53 and she had mild dizziness. She increased her p.o. fluid 
intake and her symptoms resolved. She is now ambulating without 
any symptoms. As per Dr. ___ will send her home with 
metoprolol only and stop the lisinopril. Also to note her 
hemoglobin is 10.4 today with hematocrit 31.3 and platelets 133. 
 
These have been down trending since starting on Lovenox, and 
Coumadin. She has no evidence of bleeding.  
 
Plan:  
 
 # Takotsubo Cardiomyopathy 
 - Medically manage 
 - Coumadin 5mg daily for apical akinesis (Goal INR ___ INR 1.5 

today 
 - Stop lisinopril 
 - Metoprolol succinate 12.5 mg daily 
 - Encourage stress management upon discharge; defer to PCP for 
resources and options; appointment requested 
 - CARDIOLOGY ___: Care to be established with Dr. ___ 
as scheduled 
 
 # Anemia: Hemoglobin 10.4, hematocrit 31.3, platelets 133; no 
evidence of bleeding. This has been down trending since 
admission in the setting of Lovenox and Coumadin.  
 -Continue Coumadin without bridge 
 -Stop Lovenox 
 -Repeat CBC on ___ at ___ when she is 
they are having INR checked; results requested to go to 
cardiologist and PCP 
 -___ was educated on signs and symptoms of bleeding and 
was 
instructed to seek urgent medical evaluation for any bleeding 
 
 # Chest Pain: Much improved today 
 - Tylenol PRN 
 
 # Family/HCP updated? Yes  
 
Nutrition: Regular; ___ gm sodium /Heart healthy  
 
Transitional:  
-CBC to be checked on ___ 
-Follow up with Dr. ___ at ___  
-Anticoagulation to be managed at ___ with Dr. ___ 

INR scheduled for ___.  
 
Dispo: Discharge home without services 
 
 Anticipate:  
 [X] d/c home without services 
 [] d/c home with services 
 [] d/c to rehab/LTC 
 
 
** Above plan reviewed and discussed with Dr. ___ 
** Above plan discussed with Ms. ___ who agrees. All questions 
answered to patients satisfaction. 
 
 
 
 
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive. 
Activity Status: Ambulatory - Independent. 
Import Discharge Condition  

 
Discharge Instructions:
Dear Ms. ___, 

 It was a pleasure taking care of you at the ___ 
___! 

 WHY WAS I IN THE HOSPITAL? 
 ========================== 
 - You came to the emergency room for evaluation of chest pain. 

 WHAT HAPPENED IN THE HOSPITAL? 
 ============================== 
- EKGs and lab tests indicated stress on your heart. 
- You had a cardiac catheterization that showed no blockages in 
your coronary arteries. 
- An echocardiogram showed "___'s cardiomyopathy." 

 WHAT SHOULD I DO WHEN I GO HOME? 
 ================================ 
 - Take all of your medications as prescribed (listed below).  
 - ___: INR check for coumadin dosing as 
scheduled below
 - ___: Get blood counts checked; labs slip 
provided (results to got o PCP and cardiologist)
 - Seek urgent medical evaluation for any bleeding such as in 
stool, urine or vomit. 
 - Follow up with your doctors as listed below 
 - Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs. 
 - Your weight at discharge is 137.5 lbs or 62.5 kg
 - Please weigh yourself today at home and use this as your new 
baseline
 - You should call an ambulance for any chest pain experienced 
after discharge
 - PCP ___: Please discuss stress relief measures and 
options

 It was a pleasure participating in your care. 

 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. The ___ Cardiac access phone number for all 
non-urgent concerns is ___. 

 -Your ___ Care Team  
 
Followup Instructions:
___